US04659706
Following the procedure of Example 4, 3-methyl-8-methoxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3benzazepine hydrochloride was reacted with 48% hydrobromic acid to give 8-hydroxy-3-methyl-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide, m.p. 310° (decomp.).

reactant | 3-methyl-8-methoxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3benzazepine hydrochloride | Cl.CN1CCC2=C(CC1)C=C(C(=C2)S(=O)(=O)C)OC
reactant | hydrobromic acid | Br | BrH
product | 8-hydroxy-3-methyl-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | Br.OC=1C(=CC2=C(CCN(CC2)C)C1)S(=O)(=O)C | InChI=1S/C12H17NO3S.BrH/c1-13-5-3-9-7-11(14)12(17(2,15)16)8-10(9)4-6-13;/h7-8,14H,3-6H2,1-2H3;1H
